.subckt 3PDT 1 2 3 4 5 6 7 8 9 POS=0
  .if (POS == 1)
    .param th1={1T}
    .param th2={-1T}
  .else
    .param th1={-1T}
    .param th2={1T}
  .endif
  r1 1 2 R={th1}
  r2 2 3 R={th2}
  r3 4 5 R={th1}
  r4 5 6 R={th2}
  r5 7 8 R={th1}
  r6 8 9 R={th2}
.ends